US07423052B2
Description 44: (RS)-2-(2-Oxo-2-phenyl-ethoxycarbonylmethyl)-piperidine-1-carboxylic acid tert butyl ester
2-Carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (2.86 g) and sodium carbonate (0.62 g) were dissolved in water (30 ml) using gentle warming. A solution of 2-bromoacetophenone (2.33 g) in ethanol (60 ml) was then added and the mixture boiled for 2 h. the mixture was cooled to room temperature and stood for 16 h. The mixture was again boiled for 2 h. solvent removed at reduced pressure and the residue partitioned between water and ethyl acetate. The organic phase was dried (MgSO4) and solvent removed at reduced pressure. The residue was column chromatographed (silica gel, 1:1 ethyl acetate:pentane) to give the title compound (3.14 g).

reactant | 2-Carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 2.86 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | sodium carbonate | 0.62 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromoacetophenone | 2.33 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | water | 30 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (RS)-2-(2-Oxo-2-phenyl-ethoxycarbonylmethyl)-piperidine-1-carboxylic acid tert butyl ester | 3.14 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)OCC(C1=CC=CC=C1)=O | C20H27NO5
